US04343811
(e) 2-Benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-azepino[1,2-a]indole
An amount of 2.8 g (6.17 m mole) of 2-benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-9-azepino[1,2-a]indole carboxylic acid ethylester and 0.36 g (6.1 m mole) of sodium chloride were refluxed for four hours in 3.5 ml of dimethylsulfoxide and 0.35 ml of water. After cooling, the mixture was taken up in ethyl acetate, dried over sodium sulfate, suction filtered, and evaporated. The residue was triturated with petroleum ether and suction filtered.

reactant | 2-benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-9-azepino[1,2-a]indole carboxylic acid ethylester | 2.8 g | C(C)OC(=O)C1C(C=2N(C3=CC=C(C=C3C2C2=CC=CC=C2)OCC2=CC=CC=C2)CCC1)=O | C29H27NO4
reactant | sodium chloride | 0.36 g | [Cl-].[Na+]
solvent | dimethylsulfoxide | 3.5 ml | CS(=O)C | C2H6OS
solvent | water | 0.35 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyloxy-7,8,9,10-tetrahydro-10-oxo-11-phenyl-6H-azepino[1,2-a]indole | C(C1=CC=CC=C1)OC=1C=C2C(=C3N(C2=CC1)CCCCC3=O)C3=CC=CC=C3 | C26H23NO2
